US06319428B1
In 100 ml of anhydrous tetrahydrofurane under argon at 0° C., 20.27 g (10 mmoles) of 4-styrenesulfonyl chloride CH2═CHC6H4SO2Cl (commercially available from Monomer-Polymer & Dajac Laboratories) were reacted with 14.91 g (10 mmoles) of trifluoromethane-sulfonamide CF3SO2NH2 and 22.44 g (20 mmoles) of (DABCO). After 2 hours at 0° C. and 48 hours at room temperature, the solution was filtered to remove the DABCO hydrochloride formed, and it was thereafter treated with 424 mg (10 mmoles) of anhydrous lithium chloride, which is stored and weighed in a glove box. Immediately, a precipitate of DABCO hydrochloride was formed and the reaction mixture was then again filtered after stirring for 6 hours. After evaporation and drying under vacuum, during 24 hours at room temperature, 31.16 g of the lithium salt of trifluoromethane-sulfonyl(4-styrenesulfonyl)imide were recovered which have a purity characterized by a proton and fluorine RMN higher than 97%.

reactant | DABCO | 20 mmoles, 22.44 g | C1CN2CCN1CC2 | C6H12N2
reactant | lithium chloride | 10 mmoles, 424 mg | [Cl-].[Li+]
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | DABCO hydrochloride | C1CN2CCN1CC2.Cl | InChI=1S/C6H12N2.ClH/c1-2-8-5-3-7(1)4-6-8;/h1-6H2;1H
